US07601838B2
4-methoxy benzene sulphonyl chloride (495 gm, 2.4 mmol) in dry acetone (5 ml) was added to a stirred solution of dl 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide (0.430 gm, 1.0 mmol) and dry triethylamine (0.56 ml, 4.0 mmol) in dry DMF (5 ml) during 15 min and was allowed to stirr for 8 hrs. at room temperature (32° C.). Water was added to the reaction mixture and triturated to give 2-[4-methoxybenzenesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide, which was purified by column chromatography over silica gel using 2% methanol chloroform as eluent. Yield=0.480 gm, (62.34%). m.p.=178-180° C.

reactant | 4-methoxy benzene sulphonyl chloride | 2.4 mmol, 495 gm | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide | 1.0 mmol, 0.430 gm | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)N | C12H13N3O
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[4-methoxybenzenesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide | COC1=CC=C(C=C1)S(=O)(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C19H19N3O4S
